US05049669
A 1.97 M alcoholic solution (84.9 cc) of potassium hydroxide is added to a solution of (+)-2-(2-cyano-10-phenothiazinyl)prop-vl (R)-1-phenylethylammonium phthalate (42 g) in ethanol (420 cc) under reflux, and refluxing is continued with stirring for 15 minutes The reaction mixture is then poured onto crushed ice (500 g) and extracted with ethyl acetate (500 cc and then 2×250 cc). The organic phases are combined, washed successively with 0.5 N aqueous hydrochloric acid solution (200 cc), with 0.1 N aqueous hydrochloric acid solution (100 cc), with saturated aqueous sodium hydrogen carbonate solution (2×250 cc) and with saturated aqueous sodium chloride solution (100 cc), dried over magnesium sulphate, filtered and concentrated to dryness under reduced pressure (30 mm Hg; 4 kPa) at 40° C. The residual yellow solid is taken up with isopropyl ether (100 cc), ground, drained, washed with isopropyl ether (10 cc) and dried under reduced pressure (5 mm Hg; 0.7 kPa) at 40° C. 10-(1-Hydroxy-2-propyl)-2-phenothiazinecarbonitrile, L series (17.8 g}is thereby obtained in the form of yellow crystals, m.p. 136° C.

reactant | potassium hydroxide | [OH-].[K+]
reactant | (+)-2-(2-cyano-10-phenothiazinyl)prop-vl (R)-1-phenylethylammonium phthalate | 42 g | C(C=1C(C(=O)[O-])=CC=CC1)(=O)[O-].C(#N)C1=CC=2N(C3=CC=CC=C3SC2C=C1)C(C[NH2+][C@H](C)C1=CC=CC=C1)C.C(#N)C1=CC=2N(C3=CC=CC=C3SC2C=C1)C(C[NH2+][C@H](C)C1=CC=CC=C1)C
solvent | ethanol | 420 cc | C(C)O | C2H6O
product | 10-(1-Hydroxy-2-propyl)-2-phenothiazinecarbonitrile | OCC(C)N1C2=CC=CC=C2SC=2C=CC(=CC12)C#N | C16H14N2OS
